US04529549
(2) 10-(DL-homoseryl)-1,5-di-tert-butoxycarbonyl-1,5,10-triazadecane
1.35 g (2.22 mmols) of 10-(N-benzyloxycarbonyl-DL-homoseryl)-1,5-di-tert-butoxycarbonyl-1,5,10-triazadecane was dissolved in 20 ml of methanol and was catalytically reduced over 0.1 g of palladium black for 8 hours at room temperature at atmospheric pressure. After the reaction, the catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure. 0.91 g (86.4%) of the desired product was obtained as the residual oil.

reactant | 10-(N-benzyloxycarbonyl-DL-homoseryl)-1,5-di-tert-butoxycarbonyl-1,5,10-triazadecane | 2.22 mmols, 1.35 g | C(C1=CC=CC=C1)OC(=O)NC(CCO)C(=O)NCCCCN(CCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C29H48N4O8
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium black | 0.1 g | [Pd] | Pd
product | 10-(DL-homoseryl)-1,5-di-tert-butoxycarbonyl-1,5,10-triazadecane | 0.91 g, 86.4% | NC(CCO)C(=O)NCCCCN(CCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C21H42N4O6
